US07687664B2
2-Benzyloxy-1-methoxybenzeneboronic acid
4.86 g of 2-Benzyloxy-4-bromo-1-methoxybenzene was dissolved in 100 ml of anhydrous tetrahydrofuran and cooled to −78° C. in a nitrogen atmosphere. 15 ml of 1.6 M n-butyl lithium in hexane was added dropwise, and the mixture was stirred for 30 minutes. 6 ml of Triisopropoxy borate was added all at once, and the mixture was allowed to warm overnight at room temperature. A saturated aqueous ammonium chloride solution was added to the reaction mixture which was then extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and then filtered, and the filtrate was concentrated. The residue was dissolved in 1N aqueous sodium hydroxide and extracted with diethyl ether. The aqueous layer was neutralized with 5N hydrochloric acid and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and then filtered, and the filtrate was concentrated to give 1.76 of the title compound.

reactant | 2-Benzyloxy-4-bromo-1-methoxybenzene | 4.86 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)Br)OC | C14H13BrO2
reactant | n-butyl lithium | 1.6 M, 15 ml | C(CCC)[Li]
reactant | Triisopropoxy borate | 6 ml | B(OOC(C)C)(OOC(C)C)OOC(C)C | C9H21BO6
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2-Benzyloxy-1-methoxybenzeneboronic acid | C(C1=CC=CC=C1)OC1C(C=CC=C1)(B(O)O)OC | C14H17BO4
